US06794403B2
Step b) 5-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-7-vinyl-1,3-benzoxazole
Dichlorobis(tri-o-tolylphosphine)palladium (II) (0.63 g, 0.79 mmol) was added into a mixture of 7-bromo-5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-1,3-benzoxazole (14.7 g, 26.6 mmol), tributyl(vinyl)tin (10.5 g, 33.25 mmol) and p-xylene (85 mL). The reaction mixture was stirred at 90° C. for 24 h, cooled to room temperature, diluted with ethyl ether (100 mL) and treated with activated carbon. The mixture was filtered through MgSO4 and concentrated. Purification by flash chromatography (hexanes/EtOAc 50/1) gave a white solid (11.8 g, 89% yield, m.p. 93-95° C.); MS m/e 500 (M+H)+.

reactant | 7-bromo-5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-1,3-benzoxazole | 26.6 mmol, 14.7 g | BrC1=CC(=CC=2N=C(OC21)C2=CC(=C(C=C2)O[Si](C)(C)C(C)(C)C)F)O[Si](C)(C)C(C)(C)C | C25H35BrFNO3Si2
reactant | tributyl(vinyl)tin | 33.25 mmol, 10.5 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | p-xylene | 85 mL | CC=1C=CC(=CC1)C | C8H10
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | Dichlorobis(tri-o-tolylphosphine)palladium | 0.79 mmol, 0.63 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 5-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorophenyl)-7-vinyl-1,3-benzoxazole | 11.8 g, 89% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(N=C(O2)C2=CC(=C(C=C2)O[Si](C)(C)C(C)(C)C)F)C1)C=C | C27H38FNO3Si2
